US05886008
W. 5-(5-Cyano-3-nitropyrid-2-yl)amino-3-(N-methylpyrrolidin-3-ylmethyl)-1H-indole
(R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole and 2-chloro-5-cyano-3-nitropyridine were used. Triethylamine was used as base, absolute ethanol was used as solvent, and the reaction was heated at reflux for 2 hours. Column chromatography using 9:1:0.1 [methylene chloride/methanol/ammonium hydroxide] afforded the title compound (53%) as a red foam: Rf =0.2 in 20% methanol in methylene chloride; 13C NMR (CD3OD) δ 158.3, 140.3, 136.5, 130.0, 128.4, 125.9, 122.2, 120.4, 115.2, 112.8, 111.1, 98.4, 70.1, 57.9, 40.4, 31.3, 28.2, 22.4; HRMS calculated for C20H20N6O2 376.1650, found 376.1653.

reactant | (R)-5-Amino-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H19N3
reactant | 2-chloro-5-cyano-3-nitropyridine | ClC1=NC=C(C=C1[N+](=O)[O-])C#N | C6H2ClN3O2
reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | methylene chloride methanol ammonium hydroxide | C(Cl)Cl.CO.[OH-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
product | 5-(5-Cyano-3-nitropyrid-2-yl)amino-3-(N-methylpyrrolidin-3-ylmethyl)-1H-indole | 53% | C(#N)C=1C=C(C(=NC1)NC=1C=C2C(=CNC2=CC1)CC1CN(CC1)C)[N+](=O)[O-] | C20H20N6O2
